US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-2-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
A mixture of 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (45 mg, 0.12 mmol), 2.0 M methylzinc chloride in THF (310 μL), and tetrakis(triphenylphosphine)palladium(0) (7 mg, 0.006 mmol) in THF (2 mL) under nitrogen was heated in a microwave at 150° C. for 5 min. Purification by preparative LCMS using pH 10 buffer gave the title compound (21 mg, 49%). LCMS calc. for C20H19N4O2 (M+H)+: m/z=347.1. found: 347.2. 1H NMR (300 MHz, CD3OD) δ 8.58 (d, J=4.8 Hz, 1H), 7.69 (td, J=7.8, 1.8 Hz, 1H), 7.32 (dd, J=7.1, 5.3 Hz, 1H), 7.05 (d, J=8.1 Hz, 2H), 6.89 (d, J=8.1 Hz, 2H), 6.59 (d, J=7.9 Hz, 1H), 6.03 (s, 1H), 4.55 (dd, J=11.5, 2.8 Hz, 2H), 4.29-4.09 (m, 1H), 4.00-3.71 (m, 2H), 3.63-3.50 (m, 3H), 3.40 (dd, J=9.8, 4.6 Hz, 1H), 2.23 (s, 3H), 2.23-2.11 (m, 1H), 2.08 (s, 3H), 1.98-1.83 (m, 1H).

reactant | 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.12 mmol, 45 mg | ClC1=NC2=CC=C(C3=C2N1C(CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C19H15ClN4O2
reactant | methylzinc chloride | 2.0 M | [Cl-].C[Zn+]
solvent | THF | 310 μL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.006 mmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3,5-Dimethylisoxazol-4-yl)-2-methyl-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 21 mg, 49% | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=NC=CC=C3)C(=N2)C)C | C20H18N4O2
